US08420640B2
To a stirred solution of (4-(3-(benzyl(phenyl)amino)-4-(dimethylamino)phenyl)piperazin-1-yl)(phenyl)methanone (0.49 g, 1 mmol) in ethanol (10 ml), 10% Pd—C was added under argon. The resulting mixture was stirred under H2 atmosphere at room temperature for 10 h. After completion of reaction (by TLC) it was filtered through celite, evaporated under vacuum to get the crude product. Flash chromatography gave (4-(4-(dimethylamino)-3-(phenylamino)phenyl)piperazin-1-yl)(phenyl)methanone which was isolated finally as trihydrochloride salt (0.39 g), 86% yield. 1H NMR (500 MHz, DMSO): δ 3.26 (s, 6H), 3.4 (bs, 4H), 4.2 (bs, 2H), 4.4 (s, 2H), 7.15 (t, J=7, 7.5 Hz 2H), 7.26 (d, J=7.6 Hz 2H), 7.29 (s, 2H), 7.42 (t, J=7.5, 8 Hz, 2H), 7.51 (m, 7H).

reactant | (4-(3-(benzyl(phenyl)amino)-4-(dimethylamino)phenyl)piperazin-1-yl)(phenyl)methanone | 1 mmol, 0.49 g | C(C1=CC=CC=C1)N(C=1C=C(C=CC1N(C)C)N1CCN(CC1)C(=O)C1=CC=CC=C1)C1=CC=CC=C1 | C32H34N4O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | Pd—C | [Pd] | Pd
product | (4-(4-(dimethylamino)-3-(phenylamino)phenyl)piperazin-1-yl)(phenyl)methanone | CN(C1=C(C=C(C=C1)N1CCN(CC1)C(=O)C1=CC=CC=C1)NC1=CC=CC=C1)C | C25H28N4O
